US07297816B2
4-Chloro-2-(2,6-difluoro-benzenesulfonylamino)-N-[2-(4-nitro-phenyl)-propyl]-benzamide
This compound was prepared from 4-chloro-2-(2,6-difluoro-benzenesulfonylamino)-benzoic acid and 2-(4-nitro-phenyl)-propylamine hydrochloride (prepared as in EXAMPLE 5, substituting 4-nitrophenylacetonitrile in Part A) as in Example 1, Part C. HPLC: RT=10.37 min. MS (ESI−): mass calcd. for C22H18ClF2N3O5S, 509.9; m/z found, 509 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.63 (s, 1H), 8.18 (d, J=8.6, 1H), 7.69 (d, J=1.7, 1H), 7.56-7.46 (m, 1H), 7.42 (d, J=8.6, 2H), 7.15 (d, J=8.5, 1H), 7.02-6.94 (m, 1H), 6.19-6.17 (br m, 1H), 3.79-3.70 (m, 1H), 3.57-3.49 (m, 1H), 3.33-3.23 (m, 1H), 1.38 (d, J=6.9, 3H).

reactant | 4-chloro-2-(2,6-difluoro-benzenesulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C1=C(C=CC=C1F)F | C13H8ClF2NO4S
reactant | 2-(4-nitro-phenyl)-propylamine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)C(CN)C
reactant | 4-nitrophenylacetonitrile | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
product | 4-Chloro-2-(2,6-difluoro-benzenesulfonylamino)-N-[2-(4-nitro-phenyl)-propyl]-benzamide | ClC1=CC(=C(C(=O)NCC(C)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H18ClF2N3O5S
